US07932246B2
N-(Tetrahydro-2H-pyran-2-yloxy) 2-{6-[Methyl(naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide
NaH (147 mg, 3.75 mmol) was washed with heptane, and suspended in THF (10 ml). N-(Tetrahydro-2H-pyran-2-yloxy) 2-[6-(naphthalene-2-sulfonylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxamide (1.113 g, 2.2 mmol) was then added, followed by addition of dimethyl sulfate (0.22 ml, 2.3 mmol). The mixture was stirred for 48 h, then poured into DCM (150 ml). 2.4M ammonium chloride (50 ml) was added. The aqueous layer was further extracted with DCM (150 ml). The combined organic layers were dried (MgSO4) and concentrated in vacuo to give an orange oil. This was carried forward without any further purification.

reactant | NaH | 3.75 mmol, 147 mg | [H-].[Na+]
reactant | N-(Tetrahydro-2H-pyran-2-yloxy) 2-[6-(naphthalene-2-sulfonylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxamide | 2.2 mmol, 1.113 g | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C25H27N5O5S
reactant | dimethyl sulfate | 2.3 mmol, 0.22 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ammonium chloride | 2.4M, 50 ml | [Cl-].[NH4+]
solvent | heptane | CCCCCCC | C7H16
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(Tetrahydro-2H-pyran-2-yloxy) 2-{6-[Methyl(naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C | C26H29N5O5S
